US04515799
2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetic acid
A solution of ethyl 4-(methoxycarbonylmethoxy)acetoacetate (200 g), 2-chlorobenzaldehyde (128.8 g) and methyl 3-aminocrotonate (105.4 g) in methanol (600 ml) was heated under reflux for 16 hours and then evaporated. The residue was treated with 10% aqueous sodium hydroxide solution and the mixture heated under reflux for 1.5 hours, allowed to cool to room temperature, washed three times with dichloromethane, acidified with concentrated hydrochloric acid and extracted into dichloromethane. The dichloromethane extracts were washed with water, dried over magnesium sulphate and evaporated. The residue was recrystallised from ethyl acetate to give the title compound (63 g), m.p. 150°-154° C.

reactant | ethyl 4-(methoxycarbonylmethoxy)acetoacetate | 200 g | COC(=O)COCC(CC(=O)OCC)=O | C9H14O6
reactant | 2-chlorobenzaldehyde | 128.8 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | methyl 3-aminocrotonate | 105.4 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | methanol | 600 ml | CO | CH4O
product | 2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetic acid | 63 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)O)C(=O)OCC | C20H22ClNO7
